US07435746B2
4-{2-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-ethylsulfanyl}-butyric acid
Rabbit liver esterase (134 units/mg, 1 mg) was added to a solution of 4-{2-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-ethylsulfanyl}-butyric acid methyl ester (5.2 mg, 0.013 mmol) in acetonitrile (0.2 mL) and pH 7.2 phosphate buffer (3.0 mL). After 24 h, acetonitrile (10 mL) was added and the reaction mixture was concentrated to dryness in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→5% MeOH/CH2Cl2, gradient) afforded 4.7 mg (94%) of the title compound.

reactant | 4-{2-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-ethylsulfanyl}-butyric acid methyl ester | 0.013 mmol, 5.2 mg | COC(CCCSCCN1[C@H](CCCC1=O)\C=C\C(CC1=CC=CC=C1)O)=O | C22H31NO4S
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | phosphate | 3.0 mL, pH 7.2 | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-{2-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-ethylsulfanyl}-butyric acid | 4.7 mg, 94% | OC(/C=C/[C@@H]1N(C(CCC1)=O)CCSCCCC(=O)O)CC1=CC=CC=C1 | C21H29NO4S
